US05919806
0.20 g (0.65 mmol) of 3,4-dihydro-2,2-dimethyl-3-hydroxy-4-diethylamino-6-amino-7-nitro-2H-benzo[b]pyran were dissolved in 34.9 g of ethanol and hydroge gas blown in in the presence of 0.15 g of 5% palladium-carbon, as a catalyst, for at room temperture for 2.5 hours under one atmospheric pressure while stirring. The reaction liquid was filtered under suction to remove the catalyst therefrom, and the solvent was distilledoff to obtain 0.15 g (yield: 83%) of 3,4-dihydro-2,2-dimethyl-3-hydroxy-4-diethylamino-6,7-diamino-2H-benzo[b]-pyran as a dark brown oil.

reactant | 3,4-dihydro-2,2-dimethyl-3-hydroxy-4-diethylamino-6-amino-7-nitro-2H-benzo[b]pyran | 0.65 mmol, 0.20 g | CC1(C(C(C2=C(O1)C=C(C(=C2)N)[N+](=O)[O-])N(CC)CC)O)C | C15H23N3O4
solvent | ethanol | 34.9 g | C(C)O | C2H6O
catalyst | palladium-carbon | 0.15 g | [C].[Pd]
product | 3,4-dihydro-2,2-dimethyl-3-hydroxy-4-diethylamino-6,7-diamino-2H-benzo[b]-pyran | 0.15 g, yield: 83% | CC1(C(C(C2=C(O1)C=C(C(=C2)N)N)N(CC)CC)O)C | C15H25N3O2
